Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I don't smoke, I don't drink, I don't use drugs" 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr ___ is a ___ year old ___ 
speaking male with hx unspecified psychotic disorder, 
unspecified mood disorder, 2 prior psychiatric hospitalizations, 
BIBEMS on ___ for paranoid delusions, and disorganized 
behavior in the setting of family concern for medication 
non-adherence. 
.
Emergency Department Interview was conducted with the assistance 
of an in person ___ interpreter. 
.
When asked what brought him to the ED, pt states that he was on 
the porch, then his brother came and he had an argument with 
him, he then went inside the home to his room where he had 
another argument with another brother. Pt then ___, "I 
don't know what's happening, I don't smoke, I don't drink, I 
don't do drugs, the cops came and brought me here, when there's 
something that really bothers me I don't hold it in and I let 
people know how I feel." 
.
While patient denied active hallucinations, he noted that he has 
been hearing "many people" talking about him, saying things like 
"I'm here illegally," or talking "negatively" about him. He 
hears the voices of these people while he is walking down the 
street or through the walls of his house. These voices prompted 
him to place his "documents on facebook as proof" of his being 
here legally. Per collateral he uploaded images of his social 
security card, passport and green card onto facebook which they 
convinced him to remove. Pt also noted that at one point he felt 
that people were trying to "push the windows or doors in," to 
break into the home.
.
States that he takes his medication regularly and has not missed 
any doses. Initially stated that he takes it twice per week, 
when his ___ comes to the home, then self-corrected to saying 
twice per day, and that his last administered dose was AM prior 
to ED presentation. 
.
The patient denies symptoms of depression including depressed 
mood, fatigue/loss of energy, anhedonia, thoughts of death/SI, 
sleep disturbance including insomnia or hypersomnia, loss of 
appetite/ unintentional weight changes, poor concentration, 
psychomotor agitation or retardation. 
.
The patient denies symptoms of mania such as distractibility, 
erratic behavior, grandiosity, flight of ideas, increased 
activity, decreased need for sleep, or talkativeness/pressured 
speech. Patient denies symptoms of anxiety including panic 
attacks or agoraphobia. 
.
COLLATERAL:
Nephew ___ (___): 
The patient has been talking to himself more and more over the 
past couple of weeks. ___ shares a room with the patient and 
notes that the pt has been self-dialoguing in the middle of the 
night as well as pacing around the room throughout the night. 
Noted the posting of official documents on facebook. Pt has also 
stated an intention to kill people who intend to hurt him. At 
one point stated to ___ a belief that ___ and his 
friends intended to harm him, then later had the same 
interaction with ___ blind grandfather. Family members do 
not feel safe with the patient in the home and believe he is, 
not adherent to his medications. ___ has heard from multiple 
family members that the patient acts as his normal self when the 
___ comes to the home to administer medications and that it is 
possible that the patient is only taking meds 2x/week. Feel that 
inpatient hospitalization would be helpful. 
.
EMS Run Report: 
___ y/o male ___ speaking only found standing in 
apartment yelling and shaking with BPD and family members who 
report pt has been off his meds (unknown meds) for at least a 
few weeks and has been hearing voices and is convinced his 
family is trying to kill him. Family denied he made any SI 
statements but believe he is a threat to himself and unsafe at 
home. Pt reluctant to go with EMS but went peacefully with crew 
with assistance from BPD. Pt denied any other complaints and 
drug/alcohol use. Pt transported to ___ ED w/o change in 
status."
.
ED Course: Patient remained in good behavior control. No 
chemical or physical restraints administered.
.
Upon initial interview on Deac 4 (Interview was conducted with 
the assistance of an in person ___ 
interpreter), patient explains. His brother asked why the 
patient had said "I don't drink, I don't smoke, I don't do 
drugs." He states that after he said this, his brother or the 
neighbors
called the police. However he is unsure why the police were 
called and he believes it was a mistake. He states he has ran 
out of his medications for 2 weeks now, and was unable to afford 
the medications. Patient denies SI/HI/AVH. He reports that he 
feels safe in the hospital and does not feel that anyone is out 
to get him or is speaking negatively about him. He is open to 
working with his treatment team and taking his medications at 
this time.

 
Past Medical History:
PAST PSYCHIATRIC HISTORY
- Past diagnoses: unspecified psychotic disorder, unspecified
mood disorder
- Hospitalizations: at least 1 prior, ___ at
___ with dx "psychosis NOS" and sx of paranoia
(people following him or trying to enter room through windows),
talking to himself, pacing, AH, discharged on risperidone and
benztropine
- Psychiatrist: Dr. ___
- ___
- Medication and ECT trials: Risperidone
- Self-injurious behaviors: Denies
- Suicide attempts: Denies
- Harm to others: Denies
- Trauma: Denies
.
PAST MEDICAL HISTORY
- PCP: ___
- ___ of head trauma: Denies
- Hx of seizure: Denies
- PMHx: Hyperlipidemia
.
MEDICATIONS
Benztropine 1 mg tablet PO BID
Risperidone 3 mg tablet PO BID
Cholecalciferol (vitamin D3) 1,000 unit capsule PO daily
.
ALLERGIES
NKDA
Eggs
 
Social History:
SUBSTANCE USE HISTORY
- EtOH: Denies, quit ___ years ago but denies h/o withdrawals,
seizures, detox admissions
- Tobacco:Denies, quit ___ years ago
- Cannabis: Denies
- Illicits: Denies
.
FORENSIC HISTORY
- Arrests: denies
- Convictions and jail terms: denies
- Current status (pending charges, probation, parole): denies
.
SOCIAL HISTORY
- ___, moved to ___ with family ___ years ago
- Family/supports: lives with mother and father in their house
- Relationship status: single
- Housing: lives with mother and father in their house
- Education: up to ___ grade, reports father ___ let him
continue due to work
- Employment/income: currently unemployed, recently had job in 
___
working for "a ___ that ___ perfume lids"
- Spiritual: "I am very close to God.", describes lifelong
devotion
- Access to weapons: Denies

 
Family History:
- ___ Dx: currently denies, however per OMR, '"Nervousness",
father and brother'
- ___ Hospitalizations:Denies
- ___ Treatment Hx/Med Trials:Denies
- ___ Hx Suicide:Denies
 
Physical Exam:
Vital Signs: T: 98.0, BP: 115/79, HR: 79, RR: 16, 98% RA
.
GENERAL
- HEENT: normocephalic, atraumatic, moist mucous membranes, 
oropharynx clear, supple neck, no scleral icterus
- Cardiovascular:regular rate and rhythm, S1/S2 heard, no 
murmurs/rubs/gallops, distal pulses intact
- Pulmonary: lungs clear to auscultation bilaterally, no 
wheezes/rhonchi/rales, no increased work of breathing
- Abdominal: soft, non-distended, bowel sounds normoactive, no 
TTP in all quadrants, no guarding, no rebound tenderness
- Extremities: warm and well-perfused, no edema of the limbs
- Skin: no rashes or lesions noted
.
NEUROLOGICAL
- Cranial Nerves:
     - I: olfaction not tested
     - II: PERRL 3 to 2 mm, both directly and consentually; 
brisk bilaterally, VFF to confrontation
     - III, IV, VI: EOMI without nystagmus
     - V: facial sensation intact to light touch in all 
distributions
     - VII: no facial droop, facial musculature symmetric and 
___ strength in upper and lower distributions, bilaterally
     - VIII: hearing intact to finger rub bilaterally
     - IX, X: palate elevates symmetrically
     - XI: ___ strength in trapezii and SCM bilaterally
     - XII: tongue protrudes in midline
- Motor: 
     - normal bulk and tone bilaterally
     - no abnormal movements, no tremor
     - strength ___ throughout
- Sensory: no deficits to fine touch throughout
- DTRs: 2 and symmetrical throughout
- Coordination: normal on finger to nose test, no intention 
tremor noted
- Gait: good initiation, narrow-based, normal stride and arm 
swing, able to walk in tandem without difficulty
.
COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: MOYb with 0 errors
- Orientation: oriented to person, time, place, situation
- Executive function: not tested
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 minutes with ___ after 
categorical cues
     - long-term grossly intact
- Fund of knowledge: 
     - consistent with education
     - intact to last 3 presidents: "___, ___, ___
- Calculations: 
     - $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "Until you read the 
whole book, you should not judge it"
     - bicycle/train: "you can ride both" 
- Visuospatial: not assessed
- Language: native ___ speaker, no paraphasic errors, 
appropriate to conversation
.
MENTAL STATUS:
- Appearance: no acute distress, ___ male appearing 
,stated age,  wearing hospital gown
- Behavior: calm, cooperative, no psychomotor agitation or 
retardation, appropriate eye contact, good posture
- Mood: "okay"
- Affect: euthymic
- Speech: normal rate, volume, and prosody
- Thought process: tangential, coherent, no loose associations
- Thought Content: denies SI/HI, no evidence of paranoia, denies 
AVH, not appearing to be attending to internal stimuli
- Judgment and Insight: Limited/limited
.
DISCHARGE MENTAL STATUS EXAM
VITAL SIGNS:
T. 98.1 BP: 121/76 HR 97 RR: 2097% RA

MENTAL STATUS:
- Appearance: no acute distress, ___ male 
appearing, stated age,  wearing hospital gown
- Behavior: calm, cooperative, no psychomotor agitation or 
retardation, appropriate eye contact, good posture
- Mood: "okay"
- Affect: euthymic
- Speech: normal rate, volume, and prosody
- Thought process: linear, coherent, no loose associations
- Thought Content: denies SI/HI, no evidence of paranoia, denies 
AVH, not appearing to be attending to internal stimuli
- Judgment and Insight: improved-fair/improved-fair
.
 
Pertinent Results:
___ 06:50PM URINE  HOURS-RANDOM
___ 06:50PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 06:50PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 06:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 06:30PM   GLUCOSE-122* UREA N-7 CREAT-1.0 SODIUM-140 
POTASSIUM-3.5 CHLORIDE-107 TOTAL CO2-21* ANION GAP-12
___ 06:30PM   estGFR-Using this
___ 06:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 06:30PM   WBC-10.2* RBC-4.63 HGB-12.5* HCT-37.4* 
MCV-81* MCH-27.0 MCHC-33.4 RDW-13.4 RDWSD-38.8
___ 06:30PM   NEUTS-72.3* ___ MONOS-4.5* EOS-0.7* 
BASOS-0.4 IM ___ AbsNeut-7.39* AbsLymp-2.24 AbsMono-0.46 
AbsEos-0.07 AbsBaso-0.04
___ 06:30PM   PLT COUNT-231

___ 06:54AM BLOOD %HbA1c-5.6 eAG-114
___ 06:54AM BLOOD Triglyc-146 HDL-41 CHOL/HD-3.2 LDLcalc-61
___ 06:54AM BLOOD TSH-1.3
 
Brief Hospital Course:
Mr. ___ is a ___ year old ___ 
speaking man with history of unspecified psychotic disorder, 
unspecified mood disorder, 2 prior psychiatric hospitalizations, 
who was brought in by EMS on ___ for paranoid delusions, 
and disorganized behavior in the setting of family concern for 
medication non-adherence. On presentation and in the beginning 
of his hospitalizations, he was  perseverative on people around 
him accusing him of drug use and criminal activity. He was 
tangential in his thought process, with rapid speech and labile 
affect, becoming tearful during interviews. Clinical 
presentation could be summarized as acute hallucinatory syndrome 
with secondary paranoid delusions and affective involvement 
(e.g., irritability, being angry). It was concerning that 
patient's psychosis negatively affects his self care: e.g., 
patient published his protected personal information online. It 
was also concerning that he was missing several appointments 
with his outpatient psychiatrist and collateral from family 
indicated likely poor compliance with medications. He was 
hospitalized for stabilization, medication management, 
psychotherapeutic intervention, and outpatient aftercare 
planning. 
.
1. LEGAL & SAFETY:
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on this legal status 
throughout his admission. He was also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted. There were no safety 
issues or behavioral concerns during this hospitalizations.
.
2. PSYCHIATRIC:
#)Unspecified schizophrenia spectrum disorder
On presentation and admission, patient was quite perseverative, 
reporting he did nothing wrong, and hasn't been using drugs, 
alcohol, or engaging in criminal activity. He says he hears 
people talking about him in this way (likely auditory 
hallucinations), accusing him of engaging in these behaviors and 
also accusing him of coming to the country illegally. This 
prompted him to post legal identification documentation on 
social media. Collateral from family members was significant for 
observations of the patient self dialogue-ing, with insomnia and 
paranoia that people are wanting to harm him. Also concern from 
family that patient had not been taking medication consistently. 
On exam he was perseverative, tangential, with labile affect, 
often becoming tearful. 
.
Patient had reported good effect from risperidone in the past. 
On admission, risperidone was restarted at 1mg daily and 2mg 
QHS. Given concern for chronic poor medication compliance in 
outpatient setting, started RisperiDONE ___ 25 mg IM q 2 weeks 
(first dose administered on ___. Mr. ___ was in agreement 
with the plan. He had opportunity to discuss that option and to 
ask questions. Mr. ___ also engaged in individual/group 
therapy as well as milieu therapy during his admission. 
.
Patient improved over course of the hospitalization. He reported 
improved sleep and mood and was noted to be more linear in his 
thought process and less perseverative. At time of discharge, 
patient bright, euthymic, cheerful, no longer paranoid. He is 
future-oriented to get home, ___ with his appointments, 
continue his medications, and look for work as well as possibly 
learn ___. 
 
3. MEDICAL: No acute or chronic medical issues were addressed 
during this hospitalization
.
4. PSYCHOSOCIAL
#) GROUPS/MILIEU:
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient occasionally attended these groups that focused on 
teaching patients various coping skills. Despite language 
barrier, he was often seen in the milieu with peers and was 
noted to be pleasant with staff. 
.
#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT:
Mr. ___ family was involved with his treatment. They were 
seen regularly visiting him. LICSW spoke with the ___ family 
___, speaking with pt's father and brother. They were 
made aware of the aftercare plan, medication adherence plan, and 
discharged plan on ___. 

On the discharged day, Mr. ___ reported feeling well. 
Described mood as "very good". He reports that he doesn't have 
any complains. Reported that he is ready to go home. He knows 
that he has appointments with providers on ___. He clearly 
denied A/V/H. He denied S/H/I. He shared about positive plans 
for future: continue with outpatient treatment. He also would 
like to learn ___. He would like to find a job. He reported 
that his sleep has been good. Reported good appetite. He denied 
any side effects from medications. Denied 
pain/N/V/D/C/fever/chills/muscle stiffness.

.
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Risperidone (oral and IM) and Benztropine, and risks 
and benefits of possible alternatives, including not taking the 
medication, with this patient. We discussed the patient's right 
to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team, and I answered the patient's questions. The 
patient appeared able to understand and consented to begin the 
medications.

Mr. ___ was educated that he should receive IM injection of 
Risperdal Consta 25mg every two weeks. He knows that nurse has 
to administer medication for him. After two more weeks of being 
on PO Risperdal, Risperdal PO could be discontinued as pt 
continues with Risperdal Consta IM.
.
RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of
harm to himself and others based upon acute psychosis with 
paranoia, responding to internal stimuli. His static factors 
noted at that time include history of chronic mental illness 
(schizophrenia spectrum disorder, recent discharge from an 
inpatient psychiatric unit, male gender, marital status. The 
modifiable risk factors included acute psychosis with 
disorganized and unpredictable behavior, poor reality testing, 
medication non compliance, and inconsistent follow up with 
outpatient providers. These were addressed during his admission; 
he was restarted on Risperidone and administered long acting 
injectable risperidone consta formulation to aid in compliance. 
He became less paranoid and more linear and organized with 
improved insight during his admission. Outpatient follow up was 
scheduled for him and he was advised about the importance of 
follow up with outpatient providers to avoid re-hospitalization. 
 Finally, the patient is being discharged with protective risk 
factors including sense of responsibility to family, strong 
social supports, lack of suicidal ideation, no substance use 
disorder. Overall, based on the totality of our assessment at 
this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others.
.

 
Medications on Admission:
Benztropine 1 mg tablet PO BID
Risperidone 3 mg tablet PO BID
Cholecalciferol (vitamin D3) 1,000 unit capsule PO daily

 
Discharge Medications:
1.  Benztropine Mesylate 1 mg PO BID 
RX *benztropine 1 mg 1 tablet(s) by mouth twice a day Disp #*28 
Tablet Refills:*0 
2.  RisperiDONE Long Acting Injection 25 mg IM EVERY 2 WEEKS 
(MO). Next injection is due on ___.
3.  RisperiDONE 1 mg PO DAILY 
RX *risperidone [Risperdal] 1 mg 1 tablet(s) by mouth once a day 
Disp #*14 Tablet Refills:*0 
4.  RisperiDONE 2 mg PO QHS 
RX *risperidone 2 mg 1 tablet(s) by mouth at bedtime Disp #*14 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified schizophrenia spectrum disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___